US05854257
A solution ethyl malonyl chloride (3.11 ml) in dichloromethane (11 ml) was added dropwise to a mixture of methyl 2-(4-chlorobenzylamino)nicotinate (5.00 g) and sodium bicarbonate (1.80 g) in dichloromethane (27 ml) at 10° C. under nitrogen. The mixture was boiled under reflux for 6 hours and then left to stand at ambient temperature for 18 hours. The mixture was boiled for a further 6 hours then left to stand at ambient temperature for 64 hours. Water (100 ml) was added and the mixture was stirred at ambient temperature for 45 minutes. The organic layer was separated, washed with 5% hydrochloric acid, then with water, then dried and evaporated to give a residue which was dissolved in ethanol (50 ml) and added dropwise at 10° C. to a solution of sodium (0.58 g) in ethanol (40 ml). The mixture was heated to 95° C. and stirred at this temperature for 30 minutes, then left to stand at ambient temperature for 18 hours. The solvent was removed under reduced pressure and the residue was stirred with 5% hydrochloric acid (250 ml) at 0° C. for 1 hour. The mixture was filtered to give a solid which was recrystallised from ethanol to give ethyl 1-(4-chlorobenzyl)-4-hydroxy-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate, m.p. 142°-144° C.

reactant | ethyl malonyl chloride | 3.11 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | methyl 2-(4-chlorobenzylamino)nicotinate | 5.00 g | ClC1=CC=C(CNC2=C(C(=O)OC)C=CC=N2)C=C1 | C14H13ClN2O2
reactant | sodium bicarbonate | 1.80 g | C([O-])(O)=O.[Na+]
reactant | sodium | 0.58 g | [Na] | Na
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | ethyl 1-(4-chlorobenzyl)-4-hydroxy-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | ClC1=CC=C(CN2C(C(=C(C3=CC=CN=C23)O)C(=O)OCC)=O)C=C1 | C18H15ClN2O4
